US06468995B1
Under nitrogen atmosphere, sodium cyanide (540 mg) was added to a solution of 4-chloromethyl-1-tritylpyrazole (3.58 g) in dimethylsulfoxide (30 ml) at 50° C. After stirring for 1 hour, the mixture was poured into water. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, to afford 4-cyanomethyl-1-tritylpyrazole (3.41 g).

reactant | sodium cyanide | 540 mg | [C-]#N.[Na+]
reactant | 4-chloromethyl-1-tritylpyrazole | 3.58 g | ClCC=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 4-cyanomethyl-1-tritylpyrazole | 3.41 g | C(#N)CC=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H19N3
